US07291631B2
Using General Procedure A: Reaction of 2-(4-bromomethyl-thiophen-3-ylmethyl)-isoindole-1,3-dione, (1-pyridin-2-yl-ethyl)-[1-(2-trimethylsilanyl-ethoxymethyl)-1H-benzimidazol-2-ylmethyl]-amine, DIPEA and KI in CH3CN gave 2-[4-({(1-pyridin-2-yl-ethyl)-[1-(2-trimethylsilanyl-ethoxymethyl)-1H-benzimidazol-2-ylmethyl]-amino}-methyl)-thiophen-3-ylmethyl]-isoindole-1,3-dione.

reactant | 2-(4-bromomethyl-thiophen-3-ylmethyl)-isoindole-1,3-dione | BrCC=1C(=CSC1)CN1C(C2=CC=CC=C2C1=O)=O | C14H10BrNO2S
reactant | (1-pyridin-2-yl-ethyl)-[1-(2-trimethylsilanyl-ethoxymethyl)-1H-benzimidazol-2-ylmethyl]-amine | N1=C(C=CC=C1)C(C)NCC1=NC2=C(N1COCC[Si](C)(C)C)C=CC=C2 | C21H30N4OSi
reactant | DIPEA | CCN(C(C)C)C(C)C | C8H19N
solvent | CH3CN | CC#N | C2H3N
product | 2-[4-({(1-pyridin-2-yl-ethyl)-[1-(2-trimethylsilanyl-ethoxymethyl)-1H-benzimidazol-2-ylmethyl]-amino}-methyl)-thiophen-3-ylmethyl]-isoindole-1,3-dione | N1=C(C=CC=C1)C(C)N(CC1=NC2=C(N1COCC[Si](C)(C)C)C=CC=C2)CC=2C(=CSC2)CN2C(C1=CC=CC=C1C2=O)=O | C35H39N5O3SSi
